US07666878B2
91b) [2-Methyl-1-(4-nitro-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid
1M Aqueous NaOH (1.18 ml) is added to a stirring suspension of [2-methyl-1-(4-nitro-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (0.2 g, 0.54 mmol) in 4:1 THF/MeOH (5 ml). The reaction mixture is allowed to stir at room temperature for 4 hours and then the solvent is removed in vacuo. The crude residue is dissolved in 1:1 THF/water and acidified to pH 3-4 using 6M HCl. After stirring for 30 minutes the resulting suspension is filtered and dried in vacuo at 110° C. to yield the titled product as a yellow solid. (MH+ 326)

reactant | NaOH | 1M, 1.18 ml | [OH-].[Na+]
reactant | [2-methyl-1-(4-nitro-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 0.54 mmol, 0.2 g | COC(CC1=C(N(C2=NC=CC=C21)CC2=CC=C(C=C2)[N+](=O)[O-])C)=O | C18H17N3O4
solvent | THF MeOH | 5 ml | C1CCOC1.CO
product | [2-Methyl-1-(4-nitro-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | CC1=C(C=2C(=NC=CC2)N1CC1=CC=C(C=C1)[N+](=O)[O-])CC(=O)O | C17H15N3O4
